US06498251B1
5-Benzyl-4,5,6,7-tetrahydro-furo[3,2-c]pyridine (410 mg, 1.9 mmol) was dissolved in ethanol (4 ml), and the solution was mixed with 10% palladium on activated carbon (80 mg) and stirred at room temperature for 15 hours in an atmosphere of hydrogen. The reaction solution was filtered to remove 10% palladium on activated carbon, and the solvent was removed by evaporation under a reduced pressure to obtain crude 4,5,6,7-tetrahydro-furo[3,2-c]pyridine. This compound and 2a-(4-bromobutyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one (590 mg, 1.9 mmol) and potassium carbonate (400 mg, 2.9 mmol) were stirred at room temperature for 18 hours in anhydrous N,N-dimethylformamide (4 ml). The reaction solution was mixed with ethyl acetate, washed with water and saturated brine and then dried with anhydrous magnesium sulfate. The solvent was removed by evaporation from the organic layer under a reduced pressure, and the thus obtained material was separated and purified by a silica gel column chromatography to obtain 94 mg (0.27 mmol, 14% in yield) of the title compound.

reactant | 5-Benzyl-4,5,6,7-tetrahydro-furo[3,2-c]pyridine | 1.9 mmol, 410 mg | C(C1=CC=CC=C1)N1CC2=C(CC1)OC=C2 | C14H15NO
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | 80 mg | [Pd] | Pd
product | 4,5,6,7-tetrahydro-furo[3,2-c]pyridine | O1C=CC=2CNCCC21 | C7H9NO
